US06344483B1
Ex-8g) 10 g of 2-Acetylamino-6-t-butyloxycarbonylamino-4-hexynoic acid is taken up in 50 mL of acetic acid and 25 mL of 4N HCl in dioxane and stirred for 2 h at 25° C. The reaction mixture is stripped to dryness to give 2-Acetylamino-6-amino-4-hexynoic acid.

reactant | 2-Acetylamino-6-t-butyloxycarbonylamino-4-hexynoic acid | 10 g | C(C)(=O)NC(C(=O)O)CC#CCNC(=O)OC(C)(C)C | C13H20N2O5
reactant | HCl | 4N, 25 mL | Cl | ClH
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Acetylamino-6-amino-4-hexynoic acid | C(C)(=O)NC(C(=O)O)CC#CCN | C8H12N2O3
